US05494928
A suspension of 0.26 g of sodium hydride dispersion in 35 ml of tetrahydrofuran was treated with 0.95 g of 4-methylindole at 0° as and stirred at this temperature for 1 hour. After the addition of 1 ml of (RS)-methyloxirane the reaction mixture was stirred at room temperature for 48 hours and subsequently treated with water. The mixture was diluted with ether, washed with water and with saturated sodium chloride solution and the organic phase was dried over sodium sulfate. After removal of the solvent the residue was chromatographed over 25 g of silica gel with toluene-ethyl acetate (19:1). There was obtained 0.86 g (62.7%) of (RS)-1-(4-methyl-indol-1-yl)-propan-2-ol as a yellow oil.

reactant | sodium hydride | 0.26 g | [H-].[Na+]
reactant | 4-methylindole | 0.95 g | CC1=C2C=CNC2=CC=C1 | C9H9N
reactant | (RS)-methyloxirane | 1 ml | CC1OC1 | C3H6O
reactant | water | O | H2O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (RS)-1-(4-methyl-indol-1-yl)-propan-2-ol | 0.86 g, 62.7% | CC1=C2C=CN(C2=CC=C1)CC(C)O | C12H15NO
